* C:\Users\shann\Dropbox\moog\twangilizer\docs\spice\CLK Pickoff.asc
V1 +12 0 12
V2 0 -12 12
R1 N003 0 2K
R2 N004 N003 100K
V3 N013 0 PULSE(0 .05 0 1e-6 1e-6 50e-6 100e-6) AC 1
R4 0 N008 100K
C1 N008 N014 220nF
R5 N014 N013 10K
C2 N008 0 330pF
R3 N006 N004 5.1K
R6 N005 N006 200K
XU3 NC_01 NC_02 NC_03 NC_04 NC_05 LT1354
R7 N011 N005 68K
D1 N011 N012 D
Q1 N009 N012 0 0 NPN
R8 N009 +9V 2K
V4 +9V 0 9
R9 N002 N009 68K
R10 0 N010 1K
D2 N007 N010 D
R14 N001 +9V 8.87K
R15 -9V N001 10.0K
Q2 N007 N002 +9V 0 PNP
V5 0 -9V 9
V6 N015 0 .01
R11 N008 NC_06 100K
XU1 N008 N003 +12 -12 N004 OP27
XU2 N006 N001 +12 -12 N005 OP27
.model D D
.lib C:\Users\shann\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\shann\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
;tran 0 200e-6 0
.ac oct 20 1 2e5
* Positive bias insures LED doesn't light\nwhen no signal is present
.lib ADI.lib
.lib LTC.lib
.backanno
.end
