* C:\Users\shann\Dropbox\moog\twangilizer\docs\spice\VCO Pickoff.asc
V1 +12 0 11.5
V2 0 -12 11.6
R1 N001 0 49.9K
R2 N002 N001 1.12Meg
V3 N003 0 PULSE(2 2.5 0 1e-5 1e-5 250e-6 10e-3) AC 1 Rser=0
R3 N004 N003 499K
R4 -9V N004 2.65Meg
XU2 N004 N001 +12 -12 N002 LT1354
V4 0 -9V 9
R5 N005 0 221K
R6 N006 N005 1Meg
R7 N007 N003 1Meg
R8 -9V N007 2.61Meg
XU1 N007 N005 +12 -12 N006 LT1354
C1 N004 0 47nF
C2 N007 0 20nF
;tran 0 50e-3 0 1e-3
* Input: 1.0V - 9.0V
* Output: -10V - 10.3V
* Vo = Vp(1 + R2/R1)
* Vp = [(Vi - -12V)/R3+R4]R4 + -12V
;dc V3 0 9 .1
.ac dec 25 1 1e4
;tran 0 1 0 .1
.lib LTC.lib
.backanno
.end
