* C:\Users\shann\Dropbox\moog\twangilizer\docs\spice\pll_loop_filt_2.asc
R1 N002 N003 1K
C1 N003 0 10µF
V1 N001 0 SINE(0 1 20 0 0 0) AC 1
R2 N002 N001 20K
;.tran 0 2 1.9
.ac dec 10 1 1000
.backanno
.end
